US07935699B2
Diethyl 2,2-bis(hydroxymethyl)malonate (20 g, 90.82 mmol), acetone (20 ml), 2,2-dimethoxypropane (20 ml), and concentrated sulfuric acid (0.2 ml) were stirred at 25° C. for 2 days. The reaction was slowly poured into saturated aqueous sodium carbonate. The organic supernatant was separated and concentrated in vacuo. The residue was then dissolved in ether, rinsed with saturated aqueous sodium carbonate and brine, and then dried over magnesium sulfate, filtered and concentrated in vacuo to afford crude 2,2-dimethyl-[1,3]dioxane-5,5-dicarboxylic acid diethyl ester (21.4 g, 91%) as a light yellow oil: 1H NMR (300 MHz, CDCl3) δ ppm 1.27 (t, J=7.1 Hz, 6H, 2×CH3), 1.42 (s, 6H, 2×CH3), 4.24 (q, J=7.1 Hz, 4H, 2×OCH2), 4.29 (s, 4H, 2×OCH2).

reactant | Diethyl 2,2-bis(hydroxymethyl)malonate | 90.82 mmol, 20 g | OCC(C(=O)OCC)(C(=O)OCC)CO | C9H16O6
reactant | 2,2-dimethoxypropane | 20 ml | COC(C)(C)OC | C5H12O2
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2,2-dimethyl-[1,3]dioxane-5,5-dicarboxylic acid diethyl ester | 21.4 g, 91% | C(C)OC(=O)C1(COC(OC1)(C)C)C(=O)OCC | C12H20O6
